US05171354
A solution of 4.65 g of 2',4'-dichloro-2-(3-pyridyl)acetophenone in 25 ml of ethanol is treated with 2.70 g of anhydrous sodium carbonate and 2.63 g of O-isobutylhydroxylamine hydrochloride and the reaction mixture is then heated to reflux temperature with stirring. After 4 hours, it is poured onto ice and extracted with ethyl acetate. The organic phase is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. 2',4'-Dichloro-2-(3-pyridyl)acetophenone O-isobutyloxime is obtained as an E/Z isomer mixture in the form of a brownish oil. In the chromatographic separation on silica gel using n-hexane/ethyl acetate (7:3), the E isomer [1H-NMR (CDCl3, 200 MHz): 2.055 ppm (heptet, HC(CH3)2)] is eluted first and then the Z isomer [1H-NMR (CDCl3, 200 MHz): 1.928 ppm (heptet, HC(CH3)2)].

reactant | 2',4'-dichloro-2-(3-pyridyl)acetophenone | 4.65 g | ClC1=C(C=CC(=C1)Cl)C(CC=1C=NC=CC1)=O | C13H9Cl2NO
reactant | sodium carbonate | 2.70 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | O-isobutylhydroxylamine hydrochloride | 2.63 g | Cl.C(C(C)C)ON
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2',4'-Dichloro-2-(3-pyridyl)acetophenone O-isobutyloxime | C(C(C)C)ON=C(CC=1C=NC=CC1)C1=C(C=C(C=C1)Cl)Cl | C17H18Cl2N2O
